datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C)C1=CC=CC=C1>>CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[OH:10]C(C)/C([H])=C([C:20](OC)=[OH+:21])/O>>[OH:21][C:20]1(OC)[OH+:10]C(C)C([H])=C1O 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([K])C(CCC)C(O)=C1O>>[O:10]([K])C(CCC)/C(O)=C([C:20](C)=[O:21])/O 21=20;20,10=10"
"[H]N([C:20](=[O:10])O[H])[H].[O-:21]CC>>[H]N([C:20]([O-:10])(O[H])[O:21]CC)[H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(CC)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C([H])[NH]1 10=20;20,21=21"
"[H][S:10]C(C)C(C)C(CC)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(CC)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CC)[H])CC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)[H])CC 21=20;20,10=10"
"[H][O:10]C(C)C(CC)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C[C:20]([OH:10])([Br:21])C1=CC=CC=C1>>C[C:20](=[OH+:10])C1=CC=CC=C1.[Br-:21] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CC)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)=C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)/C([H])=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[NH:10]([H])C(C)/C(C)=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[NH+:10]([H])C(C)C(C)=C1[H] 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O][H])[S]C.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O][H])[S]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C1=CC=CC=C1)[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1)C 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1[H])C)CC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O]C(C)C(C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C)C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C)C 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)O[H])CCCCCC)C1=CC=CC=C1>>C(C([O-:21])CC)(C(O[C:20](=[O:10])O[H])CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C(C)=C([C:20](C)=[O:21])/C>>[O-:21][C:20]1(C)[O+:10]([Na])C(CCC)C(C)=C1C 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
